US05344835
1-Benzyl-3-(diphenylmethoxymethyl)pyrrolidine
A mixture of 1-benzylpyrrolidine-3-methanol (1.72 g) (J. Org. Chem., 1961, 26, 1521) and bromodiphenylmethane (4.94 g) in xylene (150 ml) was heated under reflux for 3 hours, allowed to cool to room temperature, diluted with ethyl acetate, washed with 10% aqueous sodium carbonate solution, dried over magnesium sulphate and evaporated. The residue was purified by chromatography on silica using dichloromethane plus 20% ethyl acetate plus 0-10% methanol as eluant. Appropriate fractions were combined and evaporated to give the title compound (1.57 g) as a pale brown oil which was charcterised by its 1H-NMR spectrum.

reactant | 1-benzylpyrrolidine-3-methanol | 1.72 g | C(C1=CC=CC=C1)N1CC(CC1)CO | C12H17NO
reactant | bromodiphenylmethane | 4.94 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-3-(diphenylmethoxymethyl)pyrrolidine | 1.57 g | C(C1=CC=CC=C1)N1CC(CC1)COC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H27NO
